US04743601
8-Chloro-1,2-dihydro-2-methyl-3H-1,4-oxazino[2,3-c]quinoline
A solution of 10 g of 3-bromo-7-chloro-N-(2-hydroxy-1-methylethyl)-4-quinolinamine in 28 ml of DMF was stirred and to it was added 4.3 g of potassium-t-butoxide. The mixture was stirred at 120°-140° C. for 2 hours and then allowed to cool to room temperature. The reaction mixture was diluted with water and the organics were extracted into dichloromethane. Washing with water, drying over anhydrous magnesium sulfate and evaporation of solvents resulted in a crude solid which was purified by HPLC using 2:1 hexane/ethyl acetate as the eluent. Recrystallization from acetone yielded 2.5 g of solid with a melting point of 215°-217° C.

reactant | 3-bromo-7-chloro-N-(2-hydroxy-1-methylethyl)-4-quinolinamine | 10 g | BrC=1C=NC2=CC(=CC=C2C1NC(CO)C)Cl | C12H12BrClN2O
reactant | potassium-t-butoxide | 4.3 g | CC(C)([O-])C.[K+]
solvent | DMF | 28 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-Chloro-1,2-dihydro-2-methyl-3H-1,4-oxazino[2,3-c]quinoline | 2.5 g | ClC=1C=CC=2C3=C(C=NC2C1)OCC(N3)C | C12H11ClN2O
